US06562828B1
6-[1-(Pyridin-4-yl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxylic Acid tert-Butyl Ester
To a solution of 6-hydroxy-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid tert-Butyl Ester (320 mg) and 4-hydroxymethyl-1-(pyridin-4-yl)piperidine (247 mg) in a mixture of tetrahydrofuran (15 ml) and methylene chloride (5 ml) were successively added triphenylphosphine (370 mg) and diisopropyl azodicarboxylate (0.28 ml), and the mixture was stirred at room temperature for 12 hours. After completion of the reaction, the solvent was evaporated and the obtained residue was purified by silica gel column chromatography (hexane:acetone=3:2-1:1, 1% triethylamine) and dried under reduced pressure to give the title compound (400 mg).

reactant | 6-hydroxy-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid tert-Butyl Ester | 320 mg | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)O | C14H19NO3
reactant | 4-hydroxymethyl-1-(pyridin-4-yl)piperidine | 247 mg | OCC1CCN(CC1)C1=CC=NC=C1 | C11H16N2O
reactant | triphenylphosphine | 370 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.28 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 6-[1-(Pyridin-4-yl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxylic Acid tert-Butyl Ester | 400 mg | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)OCC1CCN(CC1)C1=CC=NC=C1 | C25H33N3O3
